US07737166B2
7-Fluoro-5-methyl-6-phenyl-2-(pyrrolidin-1-yl)-1,3-benzoxazole-4-carbonitrile (I-135)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.13 g, 0.45 mmol) was dissolved in dichloromethane (10 ml), and diisopropylethylamine (92.0 μl, 0.54 mmol) and pyrrolidine (41.0 μl, 0.50 mmol) were added. This was heated under reflux for 4 hours, and diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane to dichloromethane:methanol=100:1) to obtain a pale yellow oil (0.14 g, 98%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.45 mmol, 0.13 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 0.54 mmol, 92.0 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 0.50 mmol, 41.0 μl | N1CCCC1 | C4H9N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Fluoro-5-methyl-6-phenyl-2-(pyrrolidin-1-yl)-1,3-benzoxazole-4-carbonitrile | 0.14 g, 98% | FC=1C(=C(C(=C2N=C(OC21)N2CCCC2)C#N)C)C2=CC=CC=C2 | C19H16FN3O
